US04066645
2,4-Dimethylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one
2 g. of 2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin5(4H)-one are treated with 2 g. of methyl iodide in 20 ml. of dimethylformamide in the presence of 2 g. of potassium carbonate at 70° with stirring for 12 hours. The mixture is cooled to room temperature, 20 ml. of water are added and the precipitated 2,4-dimethylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one is filtered off, yield: 1.5 g. (70%); m.p. > 300° (DMF).

reactant | 2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin5(4H)-one | CC1=NN2C(NC(C3=C2C=CN=C3)=O)=C1 | C10H8N4O
reactant | methyl iodide | CI | CH3I
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2,4-Dimethylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin-5(4H)-one | CC1=NN2C(N(C(C3=C2C=CN=C3)=O)C)=C1 | C11H10N4O
